US07868177B2
A 100 ml dry round bottom flask was charged with 5,6-difluoro-N-(4-(3-(2-(methylthio)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine (0.82 g, 1.76 mmol) and sonicated in methanol (17.62 ml, 0.10 M) for 20 minutes. To this was added oxone (3.25 g, 5.29 mmol) and mixture stirred at RT for 2 days. The reaction mixture was cooled to 0° C. and basified with aq. NaHCO3. The resulting solids were filtered, washed with water, and dried under high vacuum to provide 5,6-difluoro-N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine as a light yellow solid. MS m/z=495.1 [M+H]+. Calc'd for C23H16F2N6O3S: 494.47.

reactant | 5,6-difluoro-N-(4-(3-(2-(methylthio)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | 1.76 mmol, 0.82 g | FC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)SC)C=C1F | C23H16F2N6OS
reactant | oxone | 5.29 mmol, 3.25 g | OOS(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 0.10 M, 17.62 ml | CO | CH4O
product | 5,6-difluoro-N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | FC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)S(=O)(=O)C)C=C1F | C23H16F2N6O3S
